Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Imitrex
 
Attending: ___.
 
Chief Complaint:
B/L ___ weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with meningitis ___ (no
residual deficits) who presents with worsening back pain,
weakness, and numbness. On ___ on this year, she develop back
and hip pain with some trouble walking. She did not think
anything of it at the time but the pain got worse over the week,
and she presented to the ___ for workup. She was reportedly
there for 10 days, and MRI T/L spine was negative. A psychiatry
consult was called. She was discharged from the hospital and 
told
that her symptoms would get better on their own, which they did
for a while. 

About 10 days ago, the pain and weakness returned. Pain is
described as a hot burning sensation down the ___ her legs
(not the front or the back). Nothing makes it better, stairs 
make
the pain worse. Tried all over the counter medications, last 
took
2 Aleve yesterday and nothing today. She endorses not feeling 
the
sensation to urinate or have a bowel movement and has been 
timing
going to the bathroom every 3 hours to avoid incontinence. She
has not had an episode of incontinence because of this regimen.
She is currently in a wheelchair because of pain while walking
but is able to get around at home.

Last night, she also developed twitching in her LUE and LLE
extremities in her sleep. She woke up, was not confused but felt
like her left side was sore. She has had myoclonic jerks prior 
to
sleep before but felt this was different. Denies any odd smells,
epigastric rising sensation, or feeling of intense fear. 
Endorses
feeling de ___ once per week lasting seconds. No loss of
consciousness, no history of seizures. Mother did have seizures. 


No recent history of fevers. Has had diarrhea since symptoms
started about ___ times per week. Had a cold 3 weeks ago. Denies
rhinorrhea, cough, or burning with urination. 
 

 
Past Medical History:
Past Medical and Surgical History: meningitis in ___,
endometriosis, removal of left ovary and fallopian tube, R PCL
repair
 

 
Social History:
___
Family History:
Family History:
- mother with immunodeficiency syndrome, rheumatoid arthritis,
seizure
 
Physical Exam:
Admission Exam:
Vitals:  T=98.7F, BP=113/72 , HR=64 , RR=16 , SaO2=99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple. 
Pulmonary: breathing comfortably on RA
Cardiac: RRR, no murmurs
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented. Able to relate history without
difficulty.  Language is fluent, normal prosody.  There were no
paraphasic errors. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. There was no evidence of
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally. VFF to confrontation with finger
wiggling. Funduscopic exam revealed no papilledema. No red
desaturation bilaterally.
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch in all distributions,
mildly decreased sensation to pin over left side of face,
vibration intact bilaterally and does not split midline 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No tremor noted. *give away weakness in bilateral
lower extremities ___ pain, all numbers recorded are those felt
within the first second

  Delt Bic Tri WrE FFl FE  IO  IP Quad Ham TA Gastroc 
L  5    ___   ___  4+   5   4+  5    5     
R  5    ___   ___  4+   5   4+  5    5   
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2+   2
R   2    2     2     2+   2

- Toes were downgoing bilaterally.

-Sensory: decreased sensation to vibration in bilateral lower
extremities (L foot 6 seconds, R foot 7 seconds, 13 seconds in
BUE). Decreased sensation to pin over LUE and LLE (0% on the
whole side) and 80% decrease to pin over R hand only, 100%
sensation to pin over RUE excluding hand and 100% RLE. 0%
sensation to pin over her L back, 0% sensation to pin over her R
back at about T1 and down. Decreased sensation to pin over C3
area on L side of neck but intact on right. Decreased sensation
to LT over the left side 80% compared to 100% on the R in the
extremities. Decreased sensation to LT over the left torsoe
starting at T2 and below, 80% of normal, 100% sensation to LT on
right torso. Decreased proprioception L worse than R in big toe
to small movements. 

-Coordination: No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Wide-based, locks knees when walking ___
pain. Able to stand still with feet together and eyes closed. 

Discharge Exam: Unchanged
 
Pertinent Results:
___ 01:42PM   VIT B12-838
___ 01:42PM   TSH-0.50
___ 01:42PM   CRP-0.6
___ 01:42PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:42PM   WBC-8.4 RBC-4.18 HGB-12.2 HCT-36.5 MCV-87 
MCH-29.2 MCHC-33.4 RDW-13.2 RDWSD-41.4

Imaging:
MRI C spine ___
IMPRESSION:
1.  Study is mildly degraded by motion.
2. Mild degenerative changes as described, most pronounced at 
C4-5, where disc
protrusion deforms ventral thecal sac, without definite 
associated cord signal
abnormality.

MRI head ___
IMPRESSION:
1. No MRI findings to explain patient's symptoms.  Essentially 
normal brain
MRI with and without contrast.
 
Brief Hospital Course:
___ woman w/o significant pmhx presented with gait difficulty, 
muscle pain and decreased sensation (L>R) and associated 
incontinence. Was previously worked up at ___ 
including MRI T/L spine which were both unremarkable. Her 
symptoms were thought to be secondary to possibly fibromyalgia 
or CRPS. On exam, she had significant giveaway weakness 
throughout and her sensory exam was significant for decreased 
sensation to light touch and pin prick over the hemi left. She 
had no hyperreflexia and has bilateral downgoing toes. She has 
been using a wheelchair to ambulate since discharge from ___ 
___, but is able to ambulate for a few steps. Given her 
sensory disassociation her ddx initially included syrinx, vs 
demyelinating process vs cord compression vs neuropathy vs 
functional.
However, she underwent MRI C spine and head which were 
unremarkable. Lab workk up including B12, RPR, TSH, A1c, ___, 
ESR, CRP, lyme, UTox, STox, LFTs were all negative.Etiology of 
her symptoms unclear at this point but thought to be a 
musculoskeletal and neuropathic component as well. She was 
started on gabapentin and reported some improvement. She was 
discharged with neurology outpatient clinic follow up. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO DAILY 
2. Venlafaxine XR 75 mg PO DAILY 

 
Discharge Medications:
1.  Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*300 Tablet Refills:*3 
2.  TraMADol 50 mg PO DAILY  
3.  Venlafaxine XR 75 mg PO DAILY  
4.Outpatient Physical Therapy
ICD-10: R26.89  Abnormality of gait
Physical Therapy, Gait Traing, Ambulation
Ordering: ___, MD ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gait difficulty, muscle pain and decreased sensation  of unclear 
etiology.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___, you were admitted to ___ for further evaluation 
of gait difficulty, muscle pain and decreased sensation and 
associated incontinence. You previously worked up at ___ 
___ were you underwent extensive work up including 
MRI Thoracic and lumbar spine which were both unremarkable. 
At ___ you underwent MRI head and C spine which were both 
unremarkable. Unfortunately at this point the etiology of your 
symptoms is unclear. Given your exam findings we think that your 
symptoms might be partially due to muscular skeletal pain and 
neuropathic pain. we started you on gabapentin which you 
reported gave you some relieve. You were evaluated by physical 
therapy who recommended outpatient physical therapy. You will 
have follow up scheduled in neurology clinic with Dr. ___ 
___. You were advised to call or present to the ED if your 
symptoms should worsen.  

 
Followup Instructions:
___